US04116956
To a solution of 1.6 parts of 7-chloro-3-isobutyl-2-methylmercapto-5-phenyl-3H-1,4-benzodiazepine in 150 parts by volume of methanol is added 40 parts of 100% hydrazine hydrate. The mixture is refluxed for 4.5 hours and poured into water, followed by extraction with chloroform. The chloroform layer is washed with water, dried over sodium sulfate and the solvent is evaporated. Treatment of the residue with diethyl ether yields 7-chloro-2-hydrazino-3-isobutyl-5-phenyl-3H-1,4-benzodiazepine as crystals. Recrystallization from a mixture of chloroform and n-hexane yields colorless crystals melting at 168° C to 169° C.

reactant | 7-chloro-3-isobutyl-2-methylmercapto-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)SC)CC(C)C)C2=CC=CC=C2)C1 | C20H21ClN2S
reactant | methanol | CO | CH4O
reactant | hydrazine hydrate | O.NN
solvent | water | O | H2O
product | 7-chloro-2-hydrazino-3-isobutyl-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)NN)CC(C)C)C2=CC=CC=C2)C1 | C19H21ClN4
